US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-acetyl-6-benzhydrylaminocaproic acid and ethyl L-serinate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-(N-acetyl-6-benzhydrylaminohexanoyl)-L-serine.

reactant | N-acetyl-6-benzhydrylaminocaproic acid | C(C)(=O)N(CCCCCC(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C21H25NO3
reactant | ethyl L-serinate | N[C@@H](CO)C(=O)OCC | C5H11NO3
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-(N-acetyl-6-benzhydrylaminohexanoyl)-L-serine | C(C)(=O)N(CCCCCC(=O)N[C@@H](CO)C(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H30N2O5
